US09353104B2
Step D: 4-bromo-2-methyl-6-(((1S,2S)-2-(1-methyl-1H-indazol-3-yl)cyclopropyl)methoxy)pyridazin-3(2H)-one (6)
To a solution of 5-bromo-1-methyl-1,2-dihydropyridazine-3,6-dione (300 mg, 1.485 mmol) in THF (20 mL) at 0° C. was added PPh3 (781 mg, 2.97 mmol) and ((1S,2S)-2-(1-methyl-1H-indazol-3-yl)cyclopropyl)methanol (300 mg, 1.485 mmol) followed by dropwise addition of DIAD (0.6 mL, 2.97 mmol). The reaction mixture was warmed to ambient temperature. After stirred for 2 h, the mixture was concentrated. The residue was purified by column chromatography on silica gel, eluting with PE/EA (2/1) to give the title compound as oil.

reactant | 5-bromo-1-methyl-1,2-dihydropyridazine-3,6-dione | 1.485 mmol, 300 mg | BrC1=CC(NN(C1=O)C)=O | C5H5BrN2O2
reactant | PPh3 | 2.97 mmol, 781 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | ((1S,2S)-2-(1-methyl-1H-indazol-3-yl)cyclopropyl)methanol | 1.485 mmol, 300 mg | CN1N=C(C2=CC=CC=C12)[C@@H]1[C@H](C1)CO | C12H14N2O
reactant | DIAD | 2.97 mmol, 0.6 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-bromo-2-methyl-6-(((1S,2S)-2-(1-methyl-1H-indazol-3-yl)cyclopropyl)methoxy)pyridazin-3(2H)-one | BrC=1C(N(N=C(C1)OC[C@@H]1[C@H](C1)C1=NN(C2=CC=CC=C12)C)C)=O | C17H17BrN4O2
